US08114877B2
b) (1R,2S,3R,5S)-3-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentane-1,2-diol
{(R)-1-[9-[(1R,2S,3R,4S)-2,3-dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (first step a) is dissolved in methanol (2 ml). (4 M) HCl in 1,4-dioxane (15 ml) is added and the reaction mixture is stirred at room temperature over night. The compound is purified by reverse phase column chromatography (Isolute™ C18, 0-100% MeCN in water—0.1% HCl). The compound is partitioned between DCM and saturated NaHCO3(aq). The organics are dried (MgSO4), filtered and reduced in vacuo to yield the title compound. MS (ES+) m/e 596.38 (MH+).

reactant | {(R)-1-[9-[(1R,2S,3R,4S)-2,3-dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CO)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H45N9O5
reactant | HCl | 4 M | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (1R,2S,3R,5S)-3-[2-((R)-3-Amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentane-1,2-diol | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CO)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37N9O3
